US07601870B2
1i Heptanoic acid (4-bromo-2,6-dimethyl-phenyl)-amide
Heptanoyl chloride (16 mg) was added to 4-bromo-2,6-dimethyl-aniline (20 mg) dissolved in acetonitrile and heated to 70° C. for 16 hours. The reaction mixture was concentrated in vacuo, redissolved in dimethyl sulfoxide/methanol (1:1, 0.5 mL) and subjected to preparative LC-MS purification to furnish 10 mg (33% yield) of the title compound as an oil. LC-MS (m/z) 313 (MH+); tR=3.33, (UV, ELSD) 93%, 100%.

reactant | Heptanoyl chloride | 16 mg | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | 4-bromo-2,6-dimethyl-aniline | 20 mg | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
solvent | acetonitrile | C(C)#N | C2H3N
product | Heptanoic acid (4-bromo-2,6-dimethyl-phenyl)-amide | 10 mg, 33% yield | BrC1=CC(=C(C(=C1)C)NC(CCCCCC)=O)C | C15H22BrNO
